* C:\Users\Manuel Mollon\Dropbox\potencia\TP1\Ejercicio3\3a.asc
V1 Vl1 0 12
V2 N001 0 PULSE(0 12 0 1n 1n 5.56u 16.7u)
L1 Vl1 Vl2 220µH
R1 Vl2 N002 2
R2 Vgate N001 50
D1 N002 Vo MUR460
C1 Vo 0 10µF
R3 Vo 0 100
XU1 N002 Vgate 0 irf530n
.model D D
.lib C:\Users\Manuel Mollon\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 .002 .001 1n
.lib C:\Users\Manuel Mollon\Dropbox\potencia\TP1\Ejercicio3\irf530n.lib
.backanno
.end
